US06376491B1
2-(4-Allyloxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester (671 mg) in 80% aqueous ethanol (60 ml) was stirred in the presence of chlorotris(triphenylphosphine)rhodium (63 mg) and triethylenediamine (32 mg) at 90° C. for 6 hours. The reaction mixture was poured into 1N aqueous hydrochloric acid and extracted with ethyl acetate. The combined organic extracts were washed with brine and dried over magnesium sulfate. Evaporation of the solvent under reduced pressure gave 2-(4-hydroxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester as a white solid (480 mg). EI-MS: m/z 287 (M+).

reactant | 2-(4-Allyloxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester | 671 mg | C(C)OC(=O)C=1N=C(OC1)C=1OC2=C(C1C)C(=CC=C2)OCC=C | C18H17NO5
reactant | triethylenediamine | 32 mg | C1CN2CCN1CC2 | C6H12N2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | chlorotris(triphenylphosphine)rhodium | 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 2-(4-hydroxy-3-methyl-benzofuran-2-yl)-oxazole-4-carboxylic acid ethyl ester | 480 mg | C(C)OC(=O)C=1N=C(OC1)C=1OC2=C(C1C)C(=CC=C2)O | C15H13NO5
